.subckt an41 A B C D VDD VSS Y
M8 Y net44 VSS VSS nchorex1 w=2u l=1u
M7 N003 D VSS VSS nchorex1 w=2u l=1u
M6 N002 C N003 VSS nchorex1 w=2u l=1u
M5 N001 B N002 VSS nchorex1 w=2u l=1u
M4 net44 A N001 VSS nchorex1 w=2u l=1u
M9 Y net44 VDD VDD pchorex1 w=6u l=1u
M3 net44 A VDD VDD pchorex1 w=6u l=1u
M2 net44 B VDD VDD pchorex1 w=6u l=1u
M1 net44 C VDD VDD pchorex1 w=6u l=1u
M0 net44 D VDD VDD pchorex1 w=6u l=1u
.ends an41