.subckt buf4 A VDD VSS Y
M8 Y net13 VDD VDD pchorex1 w=6u l=1u
M6 Y net13 VDD VDD pchorex1 w=6u l=1u
M4 Y net13 VDD VDD pchorex1 w=6u l=1u
M3 Y net13 VDD VDD pchorex1 w=6u l=1u
M2 net13 A VDD VDD pchorex1 w=6u l=1u
M9 Y net13 VSS VSS nchorex1 w=2u l=1u
M7 Y net13 VSS VSS nchorex1 w=2u l=1u
M5 Y net13 VSS VSS nchorex1 w=2u l=1u
M1 net13 A VSS VSS nchorex1 w=2u l=1u
M0 Y net13 VSS VSS nchorex1 w=2u l=1u
.ends buf4