.subckt cinv A OE VDD VSS X
M5 net6 OE VSS VSS nchorex1 w=2u l=1u
M4 N002 OE VSS VSS nchorex1 w=2u l=1u
M3 X A N002 VSS nchorex1 w=2u l=1u
M2 net6 OE VDD VDD pchorex1 w=6u l=1u
M1 X A N001 VDD pchorex1 w=6u l=1u
M0 N001 net6 VDD VDD pchorex1 w=6u l=1u
.ends cinv