.subckt or21 A B VDD VSS X
M4 X net068 VDD VDD pchorex1 w=6u l=1u
M3 N001 B VDD VDD pchorex1 w=6u l=1u
M2 net068 A N001 VDD pchorex1 w=6u l=1u
M5 X net068 VSS VSS nchorex1 w=2u l=1u
M1 net068 A VSS VSS nchorex1 w=2u l=1u
M0 net068 B VSS VSS nchorex1 w=2u l=1u
.ends or21